* source ERGASIATELESTIKOU
M_Q8         N00458 N00458 VDD VDD pfet  
+ L=1u  
+ W=5u         
M_Q3         N00499 N00499 VSS VSS nfet  
+ L=1u  
+ W=2.3u         
M_Q5         I5 N00458 VDD VDD pfet  
+ L=1u  
+ W=1u         
M_Q6         VOUT N00458 VDD VDD pfet  
+ L=1u  
+ W=5u         
M_Q1         N00499 0 I5 I5 pfet  
+ L=1u  
+ W=10u         
M_Q2         N00542 N01346 I5 I5 pfet  
+ L=1u  
+ W=10u         
M_Q4         N00542 N00499 VSS VSS nfet  
+ L=1u  
+ W=2.3u         
M_Q7         VOUT N00542 VSS VSS nfet  
+ L=1u  
+ W=15u         
I_I1         N00458 VSS DC 18udc  
C_C1         N00542 VOUT  0.5p  TC=0,0 
C_C2         0 VOUT  2p  TC=0,0 
V_V1         VDD 0 1.8Vdc
V_V2         VSS 0 -1.8Vdc
V_V3         N01346 0 DC 0Vdc AC 1Vac 
